US08563575B2
A mixture of 3-[4-(1H-pyrazolo[3,4-b]pyridin-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (50 mg) and iodoethane (10.5 μl) was stirred at 50° C. for 30 min, treated with water and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with Hexane/AcOEt=2/1-1/2. The product was crystallized from AcOEt/hexane to give 1-ethyl-3-[4-(1H-pyrazolo[3,4-b]pyridin-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (13 mg).

reactant | 3-[4-(1H-pyrazolo[3,4-b]pyridin-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 50 mg | N1(N=CC=2C1=NC=CC2)C2=CC=C(C=C2)N2C(NC=1C2=NC=CC1)=O | C18H12N6O
reactant | iodoethane | 10.5 μl | ICC | C2H5I
solvent | water | O | H2O
product | 1-ethyl-3-[4-(1H-pyrazolo[3,4-b]pyridin-1-yl)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 13 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)N2N=CC=1C2=NC=CC1)=O | C20H16N6O
